US04215139
10 g of p-hydroxybenzophenone are dissolved in 100 ml of dimethylformamide. 8.3 g of 2-chloroethylcarbamic acid ethyl ester and 13.8 g of potassium carbonate are added to the solution and the mixture is warmed to 100° C. and maintained there for 3 hours with stirring. The mixture is poured onto an ice/water bath. The resulting crystals are filtered and washed with water. The crystalline substance is dried at 40° C. in a vacuum drying oven. Recrystallization once from ether yields 12.5 g (80%) of 2-(p-benzoylphenoxy)ethylcarbamic acid ethyl ester, m.p.--84°-86° C.

reactant | p-hydroxybenzophenone | 10 g | OC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C13H10O2
reactant | 2-chloroethylcarbamic acid ethyl ester | 8.3 g | C(C)OC(NCCCl)=O | C5H10ClNO2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(p-benzoylphenoxy)ethylcarbamic acid ethyl ester | 12.5 g, 80% | C(C)OC(NCCOC1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O | C18H19NO4
